US09388195B2
To a solution of (2S)-butane-1,2,4-triol (10.0 g) and pyridine (15.2 mL) in acetonitrile (100 mL) was added thionyl chloride (34.4 mL) at 0° C., and the mixture was stirred at room temperature for 15 hr. Ethyl acetate (20 mL) and 0.1M hydrochloric acid (10 mL) were added to the reaction mixture, and the separated aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the object fraction was concentrated under reduced pressure to give (4S)-4-(2-chloroethyl)-1,3,2-dioxathiolane 2-oxide as a brown oil. A mixture of (4S)-4-(2-chloroethyl)-1,3,2-dioxathiolane 2-oxide produced above, sodium periodate (19.6 g), ruthenium chloride monohydrate (172 mg), acetonitrile (200 mL) and water (40 mL) was stirred at room temperature for 15 hr. Acetonitrile was evaporated under reduced pressure, and the aqueous layer was extracted with ethyl acetate (10 mL×2). The combined organic layers were washed with brine (20 mL) and dried over anhydrous magnesium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane), and the object fraction was concentrated under reduced pressure to give the title compound (14.2 g) as a colorless oil.

reactant | (2S)-butane-1,2,4-triol | 10.0 g | C([C@H](CCO)O)O | C4H10O3
reactant | pyridine | 15.2 mL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 34.4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | hydrochloric acid | 0.1M, 10 mL | Cl | ClH
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
solvent | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | (4S)-4-(2-chloroethyl)-1,3,2-dioxathiolane 2-oxide | ClCC[C@@H]1OS(OC1)=O | C4H7ClO3S
